US04436748
A mixture of 5.0 of 6,7-dichloro-2-cyclohexyl-5-methoxybenzo[b]thiophene and 50 g of pyridine hydrochloride is stirred at 195° for 5 hrs. The cooled mixture is diluted with 250 ml of water and the resulting aqueous mixture is extracted with 3×250 ml ether. The organic layers are combined, washed with 150 ml of 2 N hydrochloric acid, 2×100 ml of water, dried over anhydrous magnesium sulfate and filtered. The solvent is removed and the residue is chromatographed on a sillical gel column using hexane and then 1:1 ether-hexane as eluting solvents. Evaporation of the eluents gives 3.2 g of 6,7-dichloro-2-cyclohexyl-5-hydroxybenzo[b]thiophene. Crystallization from pentane gives the analytical sample, mp 59°-60°.

reactant | 6,7-dichloro-2-cyclohexyl-5-methoxybenzo[b]thiophene | ClC=1C(=CC2=C(SC(=C2)C2CCCCC2)C1Cl)OC | C15H16Cl2OS
reactant | pyridine hydrochloride | 50 g | Cl.N1=CC=CC=C1
solvent | water | 250 ml | O | H2O
product | 6,7-dichloro-2-cyclohexyl-5-hydroxybenzo[b]thiophene | 3.2 g | ClC=1C(=CC2=C(SC(=C2)C2CCCCC2)C1Cl)O | C14H14Cl2OS
